US07192982B2
(2S)-3-[4-(3-Hydroxy-prop-1-ynyl)-phenyl]-2-methoxy-propionic acid ethyl ester
A solution of (2S)-2-methoxy-3-(4-trifluoromethane-sulfonyloxy-phenyl)-propionic acid ethyl ester (0.861 g, 2.53 mmol), propargyl alcohol (0.88 mL, 15.18 mmol), triethylamine (1.41 mL, 10.12 mmol) and dichlorobis(triphenylphosphine)palladium (II) in 10 mL of dry DMF was heated to 90° C. for 2 hours. The reaction mixture was cooled to room temperature, diluted with 50 mL of water, and extracted with diethyl ether (3×30 mL). The combined organic layers were washed with 0.5 N HCl (2×20 mL) and brine (20 mL), dried (MgSO4), and concentrated. The residue purified by column chromatography (silica gel, hexanes/ethyl acetate 2:1, Rf0.17) to give a yellow-brown oil (0.211 g, 32%). 1H-NMR (200.15 MHz, CDCl3): δ 7.35 (d, 2H, J=8.1), 7.18 (d, 2H, J=8.1), 4.48 (s, 2H), 4.17 (q, 2H, J=7.3), 3.93 (dd, 1H, J=7.3, 5.7), 3.34 (s, 3H), 3.02 (s, 1H), 2.99 (d, 1H, J=2.2), 1.8 (s, 1H), 1.22 (t, 3H, J=7.3).

reactant | (2S)-2-methoxy-3-(4-trifluoromethane-sulfonyloxy-phenyl)-propionic acid ethyl ester | 2.53 mmol, 0.861 g | C(C)OC([C@H](CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)OC)=O | C13H15F3O6S
reactant | propargyl alcohol | 15.18 mmol, 0.88 mL | C(C#C)O | C3H4O
reactant | triethylamine | 10.12 mmol, 1.41 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
catalyst | dichlorobis(triphenylphosphine)palladium | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (2S)-3-[4-(3-Hydroxy-prop-1-ynyl)-phenyl]-2-methoxy-propionic acid ethyl ester | 0.211 g, 32% | C(C)OC([C@H](CC1=CC=C(C=C1)C#CCO)OC)=O | C15H18O4
